US04482556
9,10-Dimethoxy-2-tert-butylamino-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one hydrochloride
A solution of 9,10-dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one (3.0 g) and tert.-butylamine (10.0 ml) in chloroform (75 ml) is heated under reflux for 16 hours. The solvent is evaporated under reduced pressure and the residue triturated with a dilute solution of sodium hydroxide to give a white precipitate. The precipitate is filtered, dried and converted into its hydrochloride by treating it in solution in ethanol with hydrochloric acid. The hydrochloride is crystallized from ethanol-ether mixture, yield 3.0 g, m.p. 265°-270° C.

reactant | 9,10-dimethoxy-2-chloro-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | 3.0 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)Cl | C14H13ClN2O3
reactant | tert.-butylamine | 10.0 ml | C(C)(C)(C)N | C4H11N
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 9,10-Dimethoxy-2-tert-butylamino-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one hydrochloride | Cl.COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)NC(C)(C)C | InChI=1S/C18H23N3O3.ClH/c1-18(2,3)20-16-10-13-12-9-15(24-5)14(23-4)8-11(12)6-7-21(13)17(22)19-16;/h8-10H,6-7H2,1-5H3,(H,19,20,22);1H
